US07053089B2
[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-(9H-purin-2-yl)-amine
EXAMPLE 82 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-chloro-9H-purine (2-chloro-9H-purine was prepared according to S. R. Brashears, S. S. Wang, S. G. Bechtolt, B. E. Christensen, J. Am. Chem. Soc., 81:3789–3792(1959)): MS (m+1)=401.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-chloro-9H-purine | ClC1=NC=C2N=CNC2=N1 | C5H3ClN4
product | [1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-(9H-purin-2-yl)-amine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC=C2N=CNC2=N1 | C19H24N6O2S
